US07652022B2
N-(4-(4-Methylaminopyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea
Under N2-atmosphere, a solution of N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea (319 mg, 0.80 mmol) in methylamine/ethanol (8.03 M; 5 ml) is stirred for 50 min at 40° C. Then the reaction mixture is concentrated in vacuo, the residue re-dissolved in water and AcOEt, the aqueous layer separated off and extracted twice with AcOEt. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated in vacuo after adding 2 g of SiO2. The resulting powder is put on top of a SiO2-column and eluted with AcOEt/hexane 9:1, yielding the title compound: m.p.: 245-246° C.; 1H-NMR (DMSO-d6): 8.7 (s, HN), 8.6 (s, HN), 8.13 (s, 1H), 7.45 (d, 2H), 7.35 (d, 2H), 7.31 (d, 2H), 7.05 (d, 2H), 6.78 (s, HN), 5.79 (s, 1H), 2.83 (MeN), 1.30 (Me3C).

reactant | N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea | 0.80 mmol, 319 mg | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C21H21ClN4O2
reactant | methylamine ethanol | 8.03 M, 5 ml | CN.C(C)O
product | N-(4-(4-Methylaminopyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea | CNC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C22H25N5O2
